US05614544
Ethyl (E)-4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]cinnamate was reduced with diisobutylaluminum hydride in the same manner as in Reference Example 22 to yield (E,E)-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]phenyl]-2-propenol, which was then recrystallized from ethyl acetate to yield light yellow prisms having a melting point of 165°-166° C.

reactant | Ethyl (E)-4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]cinnamate | CC1=C(N=C(O1)C1=CC=CC=C1)C=CC1=CC=C(/C=C/C(=O)OCC)C=C1 | C23H21NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E,E)-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]phenyl]-2-propenol | CC1=C(N=C(O1)C1=CC=CC=C1)/C=C/C1=CC=C(C=C1)/C=C/CO | C21H19NO2
